US08957205B2
1-[[[4-[(Dimethylamino)methyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester
Under ice-cooling, 1 g (9 mmol) of methanesulfonyl chloride was added dropwise to a solution of 3 g (8 mmol) of 1-[[[4-(hydroxymethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester and 2.46 g (24 mmol) of triethylamine in methylene chloride. After the reaction mixture was stirred at room temperature for 1 hour, 20 ml of 2N dimethylamine-tetrahydrofuran solution was added, and the mixture was stirred overnight. The reaction solution was distilled off under reduced pressure, a saturated aqueous sodium bicarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and it was purified by silica gel column chromatography to obtain 700 mg (22%) of the title compound.

reactant | methanesulfonyl chloride | 9 mmol, 1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-[[[4-(hydroxymethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 8 mmol, 3 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CO | C22H25NO4
reactant | triethylamine | 24 mmol, 2.46 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine tetrahydrofuran | 2N, 20 ml | CNC.O1CCCC1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[[[4-[(Dimethylamino)methyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 700 mg, 22% | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CN(C)C | C24H30N2O3
